US07935702B2
2. 2,6-Dichloro-3-trifluoromethylpyridine
Heat a mixture of 2-chloro-5-trifluoromethylpyridine-N-oxide (40 g, 202.5 mmol) and POCl3 (200 mL) to 80° C. and stir for 16 hours. After cooling to room temperature, remove the excess POCl3 under vacuum. Pour the residue into ice water, and neutralize the mixture to pH=7 with solid NaHCO3. Extract the resulting mixture with diethyl ether (3×80 mL), dry the combined ether extracts (Na2SO4), filter, and evaporate to give a brown oil. Purification by column chromatography affords the title product as pale yellow solid. 1H NMR (400 MHz, CDCl3) δ 7.97 (d, 1H), 7.41 (d, 1H).

reactant | 2-chloro-5-trifluoromethylpyridine-N-oxide | 202.5 mmol, 40 g | ClC1=[N+](C=C(C=C1)C(F)(F)F)[O-] | C6H3ClF3NO
reactant | POCl3 | 200 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 2,6-Dichloro-3-trifluoromethylpyridine | ClC1=NC(=CC=C1C(F)(F)F)Cl | C6H2Cl2F3N
